US05455274
A stirred solution of 2-[5-[5-(4-cyanophenoxy)pentyloxy]-2-[N,N-bis(1-methylethyl)aminocarbonyl]phenoxy]-2-methylpropanoic acid (2.0 g, 4.0 mmol) in 50 mL of dichloromethane is treated with 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride (770 mg, 4.0 mmol), hydroxybenztriazole (540 mg, 4.0 mmol), and ethanol (220 mg, 4.8 mmol) and stirred at room temperature over 3 days. The reaction is concentrated in vacuo and purified by chromatography on silica gel (60 g) with 40-50% ethyl acetate/hexane as the eluent to afford ethyl 2-[5-[5-(4-cyanophenoxy)pentyloxy]-2-[N,N-bis(1-methylethyl)aminocarbonyl]phenoxy]-2- methylpropanoate as a colorless foam.

reactant | 2-[5-[5-(4-cyanophenoxy)pentyloxy]-2-[N,N-bis(1-methylethyl)aminocarbonyl]phenoxy]-2-methylpropanoic acid | 4.0 mmol, 2.0 g | C(#N)C1=CC=C(OCCCCCOC=2C=CC(=C(OC(C(=O)O)(C)C)C2)C(=O)N(C(C)C)C(C)C)C=C1 | C29H38N2O6
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride | 4.0 mmol, 770 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenztriazole | 4.0 mmol, 540 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | ethanol | 4.8 mmol, 220 mg | C(C)O | C2H6O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | ethyl 2-[5-[5-(4-cyanophenoxy)pentyloxy]-2-[N,N-bis(1-methylethyl)aminocarbonyl]phenoxy]-2- methylpropanoate | C(#N)C1=CC=C(OCCCCCOC=2C=CC(=C(OC(C(=O)OCC)(C)C)C2)C(=O)N(C(C)C)C(C)C)C=C1 | C31H42N2O6
